US08623859B2
N-(2-{4-[(3aR,7aR)-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl]phenyl}ethyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide
The title compound was prepared according to general procedure AG using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (56 mg, 0.16 mmol), EDCI (36 mg, 0.19 mmol), HOAt (26 mg, 0.19 mmol), DIPEA (0.084 mL, 0.48 mmol) and 2-{4-[(3aR,7aR)-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl]phenyl}ethanamine (82 mg, 0.14 mmol) in DMF (1 mL). The crude product was purified using Ambersep resin, then using prep method C.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.16 mmol, 56 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.19 mmol, 36 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.19 mmol, 26 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.48 mmol, 0.084 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-{4-[(3aR,7aR)-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl]phenyl}ethanamine | 0.14 mmol, 82 mg | N1C(=N[C@H]2[C@H]1CCCC2)C2=CC=C(C=C2)CCN | C15H21N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-{4-[(3aR,7aR)-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl]phenyl}ethyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | N1C(=N[C@H]2[C@H]1CCCC2)C2=CC=C(C=C2)CCNC(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C | C31H38N4O5S
